US05958910
N-[4-(3,4-Dihydroxy-5-nitro-phenyl)-thiazol-2-yl]4-methyl-benzenesulfonamid
A mixture of 0.24 g of N-(aminothioxomethyl)-4-methyl-benzene-sulfonamide and 0.2 g of 2-bromo-1-(3,4-dihydroxy-5-nitrophenyl)ethanone was dissolved in 5 ml of ethanol and boiled under reflux for 1 h. 0.26 g of N-[4-(3,4-dihydroxy-5-nitro-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide separated as red crystals upon cooling.

reactant | N-(aminothioxomethyl)-4-methyl-benzene-sulfonamide | 0.24 g | NC(NS(=O)(=O)C1=CC=C(C=C1)C)=S | C8H10N2O2S2
reactant | 2-bromo-1-(3,4-dihydroxy-5-nitrophenyl)ethanone | 0.2 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[4-(3,4-Dihydroxy-5-nitro-phenyl)-thiazol-2-yl]4-methyl-benzenesulfonamid | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C16H13N3O6S2
